US05459131
To a solution of 50.0 g of diethyl benzylmalonate in 100 ml of methanol under nitrogen is added 5.0 g of 5% rhodium on alumina. The mixture is hydrogenated in a Parr hydrogenator at 50 pounds per square inch of hydrogen for 16 hours. The mixture is filtered through diatomaceous earth and the filtrate concentrated under vacuum to give 50.5 g of diethyl (cyclohexylmethyl)propanedioate as a colorless oil. A 2.80 g sample of sodium hydride (60% in oil) is washed with hexane (decanted) under argon and 70 ml of dry tetrahydrofuran added. The mixture is cooled in an ice bath and 17.94 g of diethyl (cyclohexylmethyl)propanedioate added dropwise over 15 minutes. To the mixture (0° C. to 5° C.) is added dropwise 13.23 g of 2-bromo-1-(2-furanyl)ethanone in 40 ml of tetrahydrofuran. The cooling bath is removed and the mixture stirred at room temperature overnight. The solvent is removed under vacuum and 100 ml of ether added. The mixture is filtered through 240 g of silica gel in a 600 ml glass sintered funnel and the silica gel pad washed with 2 liters of ether. The filtrate is concentrated to 300 ml and is washed three times with 100 ml portions of 1M sodium bicarbonate and with 100 ml of brine. The organic layer is dried (MgSO4) and the solvent removed to give 26.0 g of a brown oil. This oil is chromatographed on silica by HPLC on a Waters-Prep 500 instrument with hexane-ethyl acetate (12:1) to give 16 g of diethyl(cyclohexylmethyl)[2-(2-furanyl)-2-oxoethyl]-propanedioate as a light yellow oil.

reactant | diethyl benzylmalonate | 50.0 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | rhodium on alumina | 5.0 g | [Rh] | Rh
product | diethyl (cyclohexylmethyl)propanedioate | 50.5 g | C1(CCCCC1)CC(C(=O)OCC)C(=O)OCC | C14H24O4
